US09169270B2
Synthesis of (±)-4-(5-Chloro-2-ethoxycarbonylmethoxy-phenyl)-2-isopropyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester (C27H29N2O5ClS, MW=528.15)
To an ice-cooled solution of ethyl 2-(4-chloro-2-(2-isopropyl-6,7-dihydrothiazolo[5,4-c]pyridin-4-yl)phenoxy)acetate (33 mg, 84 μmol, 1.0 eq.) in EtOH (5 mL), NaBH4 (3.5 mg, 92 μmol, 1.1 eq.) was added. The cooling bath was removed and the yellow solution was stirred at r.t. for 2 hours. The reaction mixture was poured in water (15 mL). The mixture was extracted with DCM (2×20 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. To an-ice cooled solution of the residue and DIPEA (43 μL, 252 μmol, 3.0 eq.) in DCM (5 mL), benzyl chloroformate (14 μL, 92 μmol, 1.1 eq.) was added dropwise. Upon completion of the addition, the cooling bath was removed and the solution was stirred at r.t. for 1 hour. The reaction was quenched with 1M aq. citric acid soln. (5 mL). The layers were separated. The aq. phase was extracted with DCM (3×5 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. The residue was purified by prep. HPLC (column: Atlantis, 30×75 mm, 10 um, UV/MS, acidic conditions) and concentrated in vacuo to afford the title compound as a yellow oil.

reactant | ethyl 2-(4-chloro-2-(2-isopropyl-6,7-dihydrothiazolo[5,4-c]pyridin-4-yl)phenoxy)acetate | 84 μmol, 33 mg, 1.0 eq. | ClC1=CC(=C(OCC(=O)OCC)C=C1)C1=NCCC2=C1SC(=N2)C(C)C | C19H21ClN2O3S
reactant | NaBH4 | 92 μmol, 3.5 mg, 1.1 eq. | [BH4-].[Na+]
reactant | DIPEA | 252 μmol, 43 μL, 3.0 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl chloroformate | 92 μmol, 14 μL, 1.1 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | (±)-4-(5-Chloro-2-ethoxycarbonylmethoxy-phenyl)-2-isopropyl-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(C2=C(CC1)N=C(S2)C(C)C)C2=C(C=CC(=C2)Cl)OCC(=O)OCC | C27H29ClN2O5S
